US07592361B2
Preparation of (R)-2-(5-benzyloxy-indol-1-yl)-propionic acid
Reverse Phase HPLC conditions: Column: YMC-Pack ProC18 (AS-300), 50×4.6 mm (I.D.), S-5 μm, 12 nm (No. 040506614); Mobile Phase: A: 0.1% TFA in water; B: 0.1% TFA in acetonitrile; Gradient: 90-5% A (10-95% B) in 7 min.; Flow rate: 4.0 mL/min; Detector (UV): 220 nm. Retention time of title compound: 3.53 min.

reactant | AS-300 | CN1CCC=2C=C(C(=CC2C(C1)C=3C=CC=C(C3)N=C=S)O)Cl | C18H17ClN2OS
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-2-(5-benzyloxy-indol-1-yl)-propionic acid | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)[C@@H](C(=O)O)C | C18H17NO3
